US08105987B2
B. Sythesis of 1-butyl-4-(3-(dodecyloxy)-3-oxopropyl)-1-methylpiperazin-1-ium bromide
In a 100-mL round bottom flask, 5.0 g (0.015 moles) of dodecyl 3-(4-methylpiperazin-1-yl)propanoate and 7.3 g (0.044 moles) of butyl bromide are combined with 10 mL of isopropyl alcohol. This solution is heated to reflux overnight. Thin layer chromatography (TLC) was used to monitor the progress of the reaction with 1:1 methanol/toluene as a mobile phase and iodine to reveal the components on the plate. After the reaction is complete, the solvent and excess of butyl bromide are evaporated under vacuum. Finally, the resulting solid is dried under vacuum at 120° C. 1H-NMR (300 MHz, CDCl3): δ 3.92 (t, 5.9Hz, 2H), 3.76 (m, 2H), 3.56 (m, 4H), 3.35 (s, 3H), 2.91 (m, 6H), 2.46 (t, 6.6 Hz, 2H), 1.67 (m, 2H), 1.47 (m, 2H), 1.12 (m, 24H), 0.74 (m, 6H). 13C-NMR (75 MHz, CDCl3): δ 170.98, 64.61, 59.14, 51.84, 45.88, 31.44, 31.28, 30.81, 29.18, 29.16, 29.13, 29.08, 28.87, 28.81, 28.11, 25.50, 25.43, 22.21, 21.96, 21.60, 13.66, 13.49.

reactant | dodecyl 3-(4-methylpiperazin-1-yl)propanoate | 0.015 moles, 5.0 g | CN1CCN(CC1)CCC(=O)OCCCCCCCCCCCC | C20H40N2O2
reactant | butyl bromide | 0.044 moles, 7.3 g | C(CCC)Br | C4H9Br
reactant | isopropyl alcohol | 10 mL | C(C)(C)O | C3H8O
reactant | iodine | II | I2
solvent | methanol toluene | CO.C1(=CC=CC=C1)C
product | 1-butyl-4-(3-(dodecyloxy)-3-oxopropyl)-1-methylpiperazin-1-ium bromide | [Br-].C(CCC)[N+]1(CCN(CC1)CCC(=O)OCCCCCCCCCCCC)C | InChI=1S/C24H49N2O2.BrH/c1-4-6-8-9-10-11-12-13-14-15-23-28-24(27)16-17-25-18-21-26(3,22-19-25)20-7-5-2;/h4-23H2,1-3H3;1H/q+1;/p-1
